US05250554
2-Pentylbenzimidazole
To a solution of O-phenylenediamine (2.2 g) and triethylamine (2.0 g) in methylene chloride (20 ml) was added dropwise caproyl chloride (2.3 g) with stirring under ice-cooling. The mixture was stirred for 3 hours at room temperature, washed with a saturated aqueous sodium bicarbonate and water, then dried. The solvent was evaporated. To the residue was added 3N-HCl, and the mixture was heated for 1.5 hour under reflux. The reaction mixture was made basic with 6N NaOH. Then precipitating crystals were recrystallized from ethyl acetate-hexane to give colorless needles (1.5 g, 47%), m.p. 161-162° C.

reactant | O-phenylenediamine | 2.2 g | [2H]C1=C(C(=C(C(=C1[2H])N)N)[2H])[2H] | C6H8N2
reactant | triethylamine | 2.0 g | C(C)N(CC)CC | C6H15N
reactant | caproyl chloride | 2.3 g | C(CCCCC)(=O)Cl | C6H11ClO
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-Pentylbenzimidazole | 1.5 g, 47% | C(CCCC)C=1NC2=C(N1)C=CC=C2 | C12H16N2
